US04638012
A. (2S)-2-(Hexanoylamino)propionic acid
L-Alanine (10 mmol) and hexanoyl chloride (11 mmol) were reacted using the method described in Example 5 Part A to give the title compound as a white crystalline material (1.091 g, 58%) after recrystallization from isopropyl ether (~6 ml).

reactant | L-Alanine | 10 mmol | N[C@@H](C)C(=O)O | C3H7NO2
reactant | hexanoyl chloride | 11 mmol | C(CCCCC)(=O)Cl | C6H11ClO
product | (2S)-2-(Hexanoylamino)propionic acid | C(CCCCC)(=O)N[C@H](C(=O)O)C | C9H17NO3
